US07749992B2
Step 1. Preparation of N-(3-Fluoro-4-methyl-phenyl)-2-hydroxyimino-acetamide
To a solution of chloral hydrate (2.97 g, 17.98 mmol) and anhydrous sodium sulfate (15.20 g, 107 mmol) in water (50 mL) add a mixture of hydroxylamine sulfate (13.67 g, 83.23 mmol), 3-Fluoro-4-methyl-phenylamine (2 g, 15.98 mmol), concentrated hydrochloric acid (1.67 mL) in water (17 mL). Heat the mixture at 45° C. for 2 h and at 75° C. for 1 hr. Cool the mixture to room temperature and filter the solid. Wash the solid with water and ethyl ether. Dry the solid under vacuum to yield the title compound (2.96 g, 94%). 1H NMR (DMSO-d6, 300 MHz) δ 2.08 (d, J=1.0 Hz, 3H), 7.12 (t, J=8.8 Hz, 1H), 7.25 (dd, J=2.1, 8.2 Hz, 1H), 7.36 (dd, J=1.6, 12.4 Hz, 1H), 10.18 (s, 1H), 12.11 (s, 1H). MS (ES−): 195 (M−H).

reactant | chloral hydrate | 17.98 mmol, 2.97 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 107 mmol, 15.20 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine sulfate | 83.23 mmol, 13.67 g | S(=O)(=O)(O)O.NO
reactant | 3-Fluoro-4-methyl-phenylamine | 15.98 mmol, 2 g | FC=1C=C(C=CC1C)N | C7H8FN
reactant | hydrochloric acid | 1.67 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 17 mL | O | H2O
product | N-(3-Fluoro-4-methyl-phenyl)-2-hydroxyimino-acetamide | 2.96 g, 94% | FC=1C=C(C=CC1C)NC(C=NO)=O | C9H9FN2O2
